US06518285B2
(Pyridin-2-yl-methoxy)-acetic Acid t-Butyl Ester:
To a solution of 0.5 mL (5.18 mmol) 2-pyridylmethanol in 20 mL THF at 0° C. was added 270 mg (6.75 mmol) NaH and the reaction stirred for 0.25 h. Then 0.82 mL t-butylbromoacetate was added and the reaction warmed to rt and stirred for 12 days. The reaction was poured into 100 mL H2O, extracted with CH2Cl2 (2×100 mL), the combined organic layers washed with brine, dried over MgSO4, filtered, and the solvent removed under reduced pressure to give 1.16 g (61%) as a brown oil.

reactant | 2-pyridylmethanol | 5.18 mmol, 0.5 mL | N1=C(C=CC=C1)CO | C6H7NO
reactant | NaH | 6.75 mmol, 270 mg | [H-].[Na+]
reactant | t-butylbromoacetate | 0.82 mL | C(C)(C)(C)OC(CBr)=O | C6H11BrO2
reactant | H2O | 100 mL | O | H2O
solvent | THF | 20 mL | C1CCOC1 | C4H8O
product | (Pyridin-2-yl-methoxy)-acetic Acid t-Butyl Ester | C(C)(C)(C)OC(COCC1=NC=CC=C1)=O | C12H17NO3
